Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / lisinopril / simvastatin / Warfarin
 
Attending: ___.
 
Chief Complaint:
elective admission for initiation of HD
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of ESRD, HTN, 
CVA, Afib, HLD who was last seen by Dr. ___ on ___, at 
which
he was advised to start dialysis.  At that time Mr. ___
wanted to get his Cataract surgery done prior to starting
dialysis. He then represented to ___ clinic on ___ 
complaining of general malaise and significant edema. The plan 
was made to intiate HD as an inpatient via direct admission on 
___. Meanwhile, his furosemide was increased from 80mg daily 
to 80mg BID. Ativan was prescribed to help with anxiety related 
to starting HD.

From Renal note ___:
"Mr. ___ is 10 days s/p cataract surgery.  He has
noticed a 20 lb weight gain in the past month, with significant
scrotal and lower extremity edema.  He has noticed increased
difficulty breathing, particularly when climbing stairs.  He is
not sleeping well at night, he blames this on being very anxious
recently.  He is sleeping at night with 2 pillows he wakes ___
times during the night to urinate.  He denies any cough, chest
pain or dizziness.  His appetite is poor, he has been following 
a
low salt, low potassium, ___ diet.  He denies
any vomiting, diarrhea or constipation.  He has not had any pain
recently.  He has pruritus but explains, he has developed an
allergy to tomatoes, when he eats then he gets scratchy throat,
when he touches them he develops hives, he has been trying to
avoid contact with them."

Currently, the patient reports feeling okay. He endorses the 
above history of DOE, orthopnea, and b/l ___ edema. He reports 
that increasing his lasix seems to have finally "kicked in" but 
that he did not urinate on ___ or ___. He has gained 20 lbs 
without dietary changes. He says that taking 1 tab of ativan 
helped his anxiety and sleep.

 
Past Medical History:
MEDICAL HISTORY:  
LOWER GI BLEEDING, DIVERTICULOSIS ___ 
DEEP VEIN THROMBOSIS ___
CHRONIC KIDNEY DISEASE   
PAROXYSMAL ATRIAL FIBRILLATION   
DIABETES MELLITUS   
HYPERTENSION   
HYPERLIPIDEMIA
PERIPHERAL VASCULAR DISEASE s/p right endarectomy in ___
GASTRIC POLYPS
CARCINOID TUMOR
COLON ADENOMA
GEOGRAPHIC TONGUE
OBSTRUCTIVE SLEEP APNEA 
OBESITY   
GOUT ___ 
HYPERHOMOCYSTEINEMIA 
H/O STROKE ___ c/b left arm / leg numbness 
H/O FERAHEME INFUSION 
NEPHROLITHIASIS
L CATARACTS SURGERY ___

PAST SURGICAL HISTORY:  
L UE AVF ___RT. EXPLORATION, FAILED AVF ___ 

 
Social History:
___
Family History:
Mother with DM. Father with rheumatic fever, MI, esophageal CA.
Both his mother and father were smokers and developed lung 
cancer.

 
Physical Exam:
Admission exam:
Vitals: 158/92, 81, 20, 96% on RA 
General: AAOx3, comfortable appearing, in NAD 
HEENT: NCAT, EOMI, PERRL. Sclera anicteric, conjunctiva pink. 
MMM. OP clear. 
Lungs: CTAB, diminished breath sounds at the bases. no w/r/r
CV: normal rate, irregularly irregular, normal S1 and S2, ___ 
systolic murmur heard best at the RUSB
Abdomen: NABS, soft, nondistended, nontender. No HSM. 
GU: no foley 
Ext: WWP. 2+ peripheral pulses. 2+ pitting edema below the knees 
b/l. 
Neuro: CNs II-XII intact. MAEE. Grossly normal strength and 
sensation.

Discharge exam:
97.5, 123/56, 81, 18, 99% on RA
General: AAOx3, comfortable appearing, in NAD 
HEENT: NCAT, EOMI, PERRL. Sclera anicteric, conjunctiva pink. 
MMM. OP clear. 
Lungs: CTAB, diminished breath sounds at the bases. no w/r/r
CV: normal rate, irregularly irregular, normal S1 and S2, ___ 
systolic murmur heard best at the RUSB
Abdomen: NABS, soft, nondistended, nontender. No HSM. 
GU: no foley 
Ext: WWP. 2+ peripheral pulses. 2+ pitting edema below the knees 
b/l. subtle nonpitting edema of the L hand. well-healing 
superficial small shallow ulcer on the R posterior leg without 
surrounding erythema, induration or warmth.
Neuro: CNs II-XII intact. MAEE. Grossly normal strength and 
sensation.
 
Pertinent Results:
Admission labs:
___ 12:18PM BLOOD WBC-5.1 RBC-2.60* Hgb-8.0* Hct-26.8* 
MCV-103* MCH-30.7 MCHC-29.8* RDW-17.1* Plt ___
___ 12:18PM BLOOD ___ PTT-32.4 ___
___ 12:18PM BLOOD Glucose-90 UreaN-107* Creat-9.2* Na-146* 
K-4.0 Cl-103 HCO3-23 AnGap-24*
___ 12:18PM BLOOD Calcium-7.3* Phos-8.6* Mg-1.9
___ 12:18PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 12:18PM BLOOD HCV Ab-NEGATIVE

Discharge labs:
___ 07:11AM BLOOD WBC-5.6 RBC-2.59* Hgb-8.3* Hct-27.2* 
MCV-105* MCH-31.9 MCHC-30.4* RDW-17.0* Plt ___
___ 07:11AM BLOOD ___ PTT-32.4 ___
___ 07:11AM BLOOD Glucose-76 UreaN-48* Creat-5.3* Na-141 
K-3.7 Cl-99 HCO3-27 AnGap-19
___ 07:11AM BLOOD Calcium-7.8* Phos-4.7* Mg-1.9

Pertinent micro:
none

Pertinent imaging:
___ AV FISTULOGRAM
1. Left upper extremity AV fistulogram demonstrates an area of 
approximately 70% stenosis in the mid portion of the outflow 
vein. 
2. Left axillary, subclavian and superior vena cava venography 
demonstrates a well-developed outflow vein without evidence of 
central stenosis. The cephalic arch is widely patent. No 
significant collateral vessels are identified. 
3. The arterial anastomosis was demonstrated to be widely patent 
on 
ultrasound. 4. Balloon dilatation of outflow vein stenosis 
performed utilizing 8 mm and 10 mm balloons. 
5. Post balloon dilatation fistulogram demonstrates  improvement 
in outflow vein stenosis, with a residual stenosis of less than 
20%. 
IMPRESSION: 60% stenosis in the mid portion of the outflow vein 
on post balloon dilatation with  improvement on venography, with 
residual stenosis of less than 20%. 
RECOMMENDATION:  The patient will likely require surveillance of 
this AV 
fistula.  Recommendations were made for ___ month follow-up at 
AV care or 
sooner if fistula dysfunction occurs in the interim. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of ESRD, HTN, 
CVA, Afib, HLD who presents to ___ 7 as an elective admission 
for initiation of HD. 
 
# ESRD: Pt admitted for initiation of HD due to fluid overload 
and general malaise. Here, he completed 3 sessions of HD on 
___, and ___. On the third session, he was noted to 
have poor flow in the fistula. ___ fistulogram done ___ showed 
narrowing of vascular outflow improved s/p balloon dilation. He 
then had a successful ___ HD session on ___ and was discharged 
home. Of note, hepatitis serologies were negative, and PPD 
placed on ___ was read negative on ___. Next HD session 
should be ___. He was continued on home cinacalcet, 
sevelamer, and lasix. Home vitamin D and bicarb were stopped. He 
saw nutrition while here for help with renal diet. 

# Gout: He was continued on his home allopurinol ___ daily.

# Afib: He is not on coumadin despite CHADS score of 3 for h/o 
CVA and HTN. He remained well rate controlled without nodal 
blockers. He was continued on his home aspirin and plavix.

# PVD: Continued on home plavix and ASA 325mg. 

# T2DM: Diet controlled. Euglycemic here.

Transitional issues:
# CODE STATUS: DNR/DNI
# CONTACT:  ___ wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, chest congestion 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO EVERY OTHER DAY 
4. Clopidogrel 75 mg PO DAILY 
5. Furosemide 80 mg PO BID 
6. Lorazepam 0.5-1 mg PO HS:PRN insomnia, anxiety 
7. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
8. Ranitidine 150 mg PO DAILY 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Aspirin 325 mg PO DAILY 
11. sodium bicarbonate 75 mg oral daily 
12. Vitamin D 400 UNIT PO DAILY 
13. Vigamox (moxifloxacin) 0.5 % ophthalmic TID 
14. prednisoLONE acetate unknown unknown ophthalmic TID 
15. Pravastatin 40 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough, chest congestion 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Cinacalcet 30 mg PO EVERY OTHER DAY 
5. Clopidogrel 75 mg PO DAILY 
6. Furosemide 80 mg PO BID 
7. Lorazepam 0.5-1 mg PO HS:PRN insomnia, anxiety 
8. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
9. Pravastatin 40 mg PO DAILY 
10. prednisoLONE acetate 0 unknown OPHTHALMIC TID 
11. Ranitidine 150 mg PO DAILY 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Vigamox (moxifloxacin) 0.5 % ophthalmic TID 
14. Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
End Stage Renal Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for initiation of dialysis. You 
underwent 4 sessions on ___, and ___. We now feel 
it is safe for you to leave the hospital. 
 
Followup Instructions:
___